US07090929B2
1-(2,4-difluoro-phenyl)-isoquinoline:
2,4-difluorophenylboronic acid (Aldrich Chemical Co., 13.8 g, 87.4 mmol), 1-chloroisoquinoline (Adrich Chemical Co., 13 g, 79.4 mmol), tetrakistriphenylphosphine palladium(0) (Aldrich, 3.00 g, 2.59 mmol), potassium carbonate (EM Science, 24.2 g, 175 mmol), water (300 mL), and dimethoxyethane (Aldrich, 300 mL) were allowed to stir at reflux for 20 h under N2, after which time the mixture was cooled to room temperature and the organic and aqueous layers were separated. The aqueous layer was extracted with 3×150 mL of diethyl ether, and the combined organic fractions were dried with sodium sulfate, filtered, and the filtrate was evaporated to dryness. The crude material was chromatographed on a silica gel column, first by eluting the catalyst byproduct with 4:1 hexanes/CH2Cl2, and finally the product was eluted with CH2Cl2/MeOH (9.5:0.5, product Rf=0.7). The pure product fractions were collected and dried in vacuo, to afford 17.7 g (92% isolated yield) of a light yellow solid, >95% pure NMR spectroscopy. 1H NMR (CDCl3, 296 K, 300 MHz): δ 8.61 (1H, d, J=5.7 Hz), 7.89 (1H, d, J=8.2 Hz), 7.67–7.85 (3H, m), 7.52–7.63 (2H, m), 6.95–7.12 (2H, m) ppm. 19F NMR (CDCl3, 296K, 282 MHz) δ −109.01 (1F, brs), −109.87 (1F, d, JF-F=8.5 Hz).

reactant | 2,4-difluorophenylboronic acid | 87.4 mmol, 13.8 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | 1-chloroisoquinoline | 79.4 mmol, 13 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | potassium carbonate | 175 mmol, 24.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 mL | O | H2O
solvent | dimethoxyethane | 300 mL | C(OC)COC | C4H10O2
product | 1-(2,4-difluoro-phenyl)-isoquinoline | FC1=C(C=CC(=C1)F)C1=NC=CC2=CC=CC=C12 | C15H9F2N
